US05886014
5-[4-(1-Benzylbenzimidazol-5-ylmethoxy)benzyl]thiazolidine-2,4-dione hemihydrate (Hemihydrate of Compound No. 1-229)
A mixture of 0.26 g of 5-[4-(1-benzylbenzimidazol-5-ylmethoxy)benzyl]-3-triphenylmethylthiazolidine-2,4-dione (prepared as described in Preparation 29), 3 ml of acetic acid and 1 ml of water was stirred for 3 hours at 50° C. in oil bath. At the end of this time, the reaction mixture was neutralized with sodium hydrogencarbonate and then extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The solvent was then removed by evaporation under reduced pressure, and the resulting residue was recrystallized from a mixture of ethanol and methanol, to give 116 mg of the title compound, melting at 185°-187° C.

reactant | 5-[4-(1-benzylbenzimidazol-5-ylmethoxy)benzyl]-3-triphenylmethylthiazolidine-2,4-dione | 0.26 g | C(C1=CC=CC=C1)N1C=NC2=C1C=CC(=C2)COC2=CC=C(CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=C2 | C44H35N3O3S
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | 1 ml | O | H2O
product | 5-[4-(1-Benzylbenzimidazol-5-ylmethoxy)benzyl]thiazolidine-2,4-dione hemihydrate | 116 mg | O.C(C1=CC=CC=C1)N1C=NC2=C1C=CC(=C2)COC2=CC=C(CC1C(NC(S1)=O)=O)C=C2.C(C2=CC=CC=C2)N2C=NC1=C2C=CC(=C1)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | InChI=1S/2C25H21N3O3S.H2O/c2*29-24-23(32-25(30)27-24)13-17-6-9-20(10-7-17)31-15-19-8-11-22-21(12-19)26-16-28(22)14-18-4-2-1-3-5-18;/h2*1-12,16,23H,13-15H2,(H,27,29,30);1H2
